US06943267B1
A solution of dimethylthiophosphite (4.56 g, 36.2 mmol), 6-bromohexanoic acid tert-butyl ester (100 g, 39.8 mmol) and triethylbenzylammonium chloride (0.82 g, 3.62 mmol) in dichloromethane (100 mL) was cooled on an ice bath and a solution of sodium hydroxide (14.5 g, 0.362 mol) in water (14.5 mL) was added slowly with vigorous stirring. The ice bath was removed and the mixture stirred for 3 days before being washed with water, dried (magnesium sulfate), and the solvent removed under reduced pressure to give crude 6-(dimethoxythiophosphoryl)hexanoic acid tert-butyl ester (8.00 g).

reactant | dimethylthiophosphite | 36.2 mmol, 4.56 g | CSP(OC)[O-]
reactant | 6-bromohexanoic acid tert-butyl ester | 39.8 mmol, 100 g | C(C)(C)(C)OC(CCCCCBr)=O | C10H19BrO2
reactant | sodium hydroxide | 0.362 mol, 14.5 g | [OH-].[Na+]
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | triethylbenzylammonium chloride | 3.62 mmol, 0.82 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 14.5 mL | O | H2O
product | 6-(dimethoxythiophosphoryl)hexanoic acid tert-butyl ester | 8.00 g | C(C)(C)(C)OC(CCCCCP(=S)(OC)OC)=O | C12H25O4PS
